US07585874B2
2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-7-carboxylic acid (3-morpholin-4-yl-propyl)-amide
As described for Example 11b, 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-7-carboxylic acid (96 mg, 0.3 mmol) was converted, using N-(3-aminopropyl)morpholine instead of aminomethylcyclopropane, to the title compound (102 mg, 76%) which was obtained as an off-white foam. MS: m/e=446.3 [M+H]+.

reactant | 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-7-carboxylic acid | 0.3 mmol, 96 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=CC(=C2)C(=O)O)C1 | C18H13N3O3
reactant | N-(3-aminopropyl)morpholine | NCCCN1CCOCC1 | C7H16N2O
product | 2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-7-carboxylic acid (3-morpholin-4-yl-propyl)-amide | 102 mg, 76% | N1(CCOCC1)CCCNC(=O)C1=CC=2N(C=C1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2 | C25H27N5O3
